US08957070B2
N-{2-[5-(Hydroxymethyl)-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-isopropylthiophene-2-sulfonamide
A mixture of 7-[isopropyl(2-thienylsulfonyl)amino]-1H-indole-2-carbothioamide (123 mg), bromomalonaldehyde (103 mg) and N,N-dimethylacetamide (3 mL) was stirred at 90° C. for 2 hr. To the reaction mixture was added water, and the obtained solid was washed with water, and then with hexane. To a mixture of the solid, tetrahydrofuran (5 mL) and methanol (5 mL) was added sodium borohydride (15 mg), and the mixture was stirred at room temperature for 14 hr. The reaction mixture was concentrated under reduced pressure, and ethyl acetate was added to the residue. The mixture was washed with aqueous sodium bicarbonate and saturated brine, and the ethyl acetate layer was dried over magnesium sulfate, and filtrated. The filtrate was concentrated. The residue was subjected to silica gel column chromatography, and eluted with a mixture of ethyl acetate-hexane (2:1) to give the title compound (124 mg, yield 88%) as crystals. melting point 209° C.

reactant | 7-[isopropyl(2-thienylsulfonyl)amino]-1H-indole-2-carbothioamide | 123 mg | C(C)(C)N(C=1C=CC=C2C=C(NC12)C(N)=S)S(=O)(=O)C=1SC=CC1 | C16H17N3O2S3
reactant | bromomalonaldehyde | 103 mg | BrC(C=O)C=O | C3H3BrO2
reactant | N,N-dimethylacetamide | 3 mL | CN(C(C)=O)C | C4H9NO
solvent | water | O | H2O
product | N-{2-[5-(Hydroxymethyl)-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-isopropylthiophene-2-sulfonamide | 124 mg, yield 88% | OCC1=CN=C(S1)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C=1SC=CC1)C(C)C | C19H19N3O3S3
